US05679688
Step A: N-Benzoyl-L-asparagine:
To a vigorously stirred solution of 2 g (0.013 mol) of L-asparagine monohydrate and 2.02 g (0.014 mol) of potassium carbonate in 15 ml of water, 1.51 ml (0.013 mol) of benzoyl chloride was added dropwise, over a period of 15 min., at room temperature. The stirring was continued for 2 hour, then the mixture was extracted with 10 ml of ether and the aqueous phase was acidified to pH 2 with concentrated hydrochloric acid. The white precipitate was filtered off, washed with water and purified by crystallization from isopropyl alcohol to give 2.1 g (68% yield) of the title compound at 190°-192° C.; NMR (DMSO-d6): 2.62 (m, 2H, CH2); 3.32 (broad s, 1H, OH); 4.72 (m, 1H, CH); 6.64-8.0(m. 7H, aromatic, NH2); 8.6 (d, 1H, NH).

reactant | L-asparagine monohydrate | 0.013 mol, 2 g | O.N[C@@H](CC(N)=O)C(=O)O
reactant | potassium carbonate | 0.014 mol, 2.02 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzoyl chloride | 0.013 mol, 1.51 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | water | 15 ml | O | H2O
product | N-Benzoyl-L-asparagine | 2.1 g, 68% yield | C(C1=CC=CC=C1)(=O)N[C@@H](CC(N)=O)C(=O)O | C11H12N2O4
